US07495007B2
Preparation of intermediate E/Z-6-chloro-3-(4-chloro-benzylidene)-1,3-dihydro-indol-2-one
In a manner similar to the method described in example 1a, 6-chlorooxindole (2 g, 11.4 mmol) was reacted with 4-chloro-benzaldehyde (1.91 g, 13.6 mmol) (1.53 g, 13.6 mmol) (Aldrich) and piperidine (1.34 mL, 13.6 mmol) in methanol to give a mixture of E- and Z-6-chloro-3-(4-chloro-benzylidene)-1,3-dihydro-indol-2-one as a yellow solid (Yield: 3.3 g, 100%).

reactant | 6-chlorooxindole | 11.4 mmol, 2 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 4-chloro-benzaldehyde | 13.6 mmol, 1.91 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | piperidine | 13.6 mmol, 1.34 mL | N1CCCCC1 | C5H11N
solvent | methanol | CO | CH4O
product | Z-6-chloro-3-(4-chloro-benzylidene)-1,3-dihydro-indol-2-one | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=CC=C(C=C1)Cl | C15H9Cl2NO
